US06908935B2
Step 5) 4-Hydroxy-3-(4-methoxyphenyl)benzaldehyde:
A solution of 4-hydroxy-3-(4-methoxyphenyl)benzyl alcohol (5.54 g, 24 mmol) in acetone (250 mL) was treated with MnO2 and the mixture stirred for 3 days. The solid was filtered on diatomaceous earth and the filtrate was concentrated under reduced pressure to afford 5.96 g of title compound as a pale green oil, impure with manganese salts.

reactant | 4-hydroxy-3-(4-methoxyphenyl)benzyl alcohol | 24 mmol, 5.54 g | OC1=C(C=C(CO)C=C1)C1=CC=C(C=C1)OC | C14H14O3
solvent | acetone | 250 mL | CC(=O)C | C3H6O
catalyst | MnO2 | O=[Mn]=O
product | 4-Hydroxy-3-(4-methoxyphenyl)benzaldehyde | 5.96 g | OC1=C(C=C(C=O)C=C1)C1=CC=C(C=C1)OC | C14H12O3
